* LVS netlist generated with ICnet by 'egrvlsi07' on Mon Apr  1 2019 at 13:32:34

*
* Globals.
*
.global VDD ground

*
* Component pathname : $VLSI/Project/Adder
*
.subckt Adder  Cout S A B Cin

        M18 N$145 Cin N$165 ground nmos l=0.13u w=2u m=1
        M17 N$145 Cin N$159 VDD pmos l=0.13u w=2u m=1
        M16 N$159 B N$157 VDD pmos l=0.13u w=2u m=1
        M15 N$157 A VDD VDD pmos l=0.13u w=2u m=1
        M24 N$47 Cin ground ground nmos l=0.13u w=2u m=1
        M23 N$47 B ground ground nmos l=0.13u w=2u m=1
        M22 N$47 A ground ground nmos l=0.13u w=2u m=1
        M21 N$145 N$210 N$47 ground nmos l=0.13u w=2u m=1
        M14 N$145 N$210 N$37 VDD pmos l=0.13u w=2u m=1
        M13 N$37 Cin VDD VDD pmos l=0.13u w=2u m=1
        M12 N$37 B VDD VDD pmos l=0.13u w=2u m=1
        M11 N$37 A VDD VDD pmos l=0.13u w=2u m=1
        M10 N$7 B VDD VDD pmos l=0.13u w=2u m=1
        M9 N$10 B VDD VDD pmos l=0.13u w=2u m=1
        M8 N$10 A VDD VDD pmos l=0.13u w=2u m=1
        M7 N$210 A N$7 VDD pmos l=0.13u w=2u m=1
        M6 N$210 A N$19 ground nmos l=0.13u w=2u m=1
        M5 N$210 Cin N$14 ground nmos l=0.13u w=2u m=1
        M4 N$19 B ground ground nmos l=0.13u w=2u m=1
        M3 N$14 B ground ground nmos l=0.13u w=2u m=1
        M2 N$210 Cin N$10 VDD pmos l=0.13u w=2u m=1
        M1 N$14 A ground ground nmos l=0.13u w=2u m=1
        M28 S N$145 ground ground nmos l=0.13u w=2u m=1
        M27 S N$145 VDD VDD pmos l=0.13u w=2u m=1
        M26 Cout N$210 ground ground nmos l=0.13u w=2u m=1
        M25 Cout N$210 VDD VDD pmos l=0.13u w=2u m=1
        M20 N$167 A ground ground nmos l=0.13u w=2u m=1
        M19 N$165 B N$167 ground nmos l=0.13u w=2u m=1
.ends Adder

