* File: mirror.pex.netlist.pex
* Created: Fri Mar 29 14:20:09 2019
* Program "Calibre xRC"
* Version "v2012.2_36.25"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_MIRROR_VDD 1 7 8 9 10 11 33 71
c2 80 0 88.41f
c3 75 0 88.41f
c4 72 0 61.44f
c5 71 0 156.54f
c6 70 0 322.608f
c7 69 0 32.18f
c8 68 0 1.28914p
c9 66 0 32.18f
c10 65 0 32.18f
c11 63 0 745.89f
c12 62 0 32.18f
c13 57 0 360.994f
c14 55 0 32.18f
c15 52 0 322.608f
c16 50 0 71.808f
c17 47 0 315.828f
c18 44 0 32.18f
c19 43 0 71.808f
c20 39 0 360.994f
c21 31 0 349.5f
c22 30 0 903.03f
c23 29 0 71.808f
c24 25 0 360.994f
c25 22 0 71.808f
c26 18 0 360.994f
c27 13 0 61.44f
r28 71 72 0.458
r29 67 68 0.0530667
r30 63 64 0.056
r31 60 80 0.0559551
r32 60 70 0.9175
r33 55 70 0.0506881
r34 55 57 0.313846
r35 51 75 0.0559551
r36 51 52 0.9175
r37 50 68 0.0983827
r38 50 69 0.205
r39 45 69 0.047348
r40 45 47 0.209231
r41 44 52 0.0458784
r42 44 47 0.313846
r43 43 67 0.0983827
r44 43 66 0.205
r45 37 66 0.0461878
r46 37 39 0.209231
r47 33 35 0.0096
r48 31 64 0.00426667
r49 31 33 0.0944
r50 30 67 0.00426667
r51 30 35 0.0514667
r52 29 64 0.0983827
r53 29 65 0.205
r54 23 65 0.0517569
r55 23 25 0.209231
r56 22 63 0.0983827
r57 22 62 0.205
r58 16 62 0.047348
r59 16 18 0.209231
r60 13 88 0.0732
r61 13 71 0.0477743
r62 13 80 0.68
r63 13 57 2.58833
r64 11 88 0.6222
r65 1 10 0.6954
r66 1 9 0.6954
r67 1 8 0.6954
r68 1 7 0.6954
r69 1 72 0.0477743
r70 1 75 0.68
r71 1 47 2.58833
r72 1 39 2.58833
r73 1 35 0.139375
r74 1 25 2.58833
r75 1 18 2.58833
.ends

.subckt PM_MIRROR_2 4 9 13 17 19 20 22 43 44 46 47 55 63 65 67 69 70 71 78 80 82
+ 84
c37 146 0 104.25f
c38 107 0 118.838f
c39 103 0 75.61f
c40 98 0 80f
c41 93 0 118.513f
c42 85 0 48.64f
c43 84 0 354.232f
c44 83 0 61.44f
c45 82 0 330.092f
c46 81 0 61.44f
c47 80 0 381.092f
c48 78 0 60.72f
c49 75 0 32.18f
c50 71 0 44.685f
c51 70 0 547.888f
c52 69 0 14.96f
c53 68 0 32.18f
c54 67 0 112.288f
c55 65 0 238.128f
c56 63 0 598.928f
c57 59 0 360.994f
c58 55 0 296.448f
c59 50 0 360.994f
c60 48 0 32.18f
c61 47 0 27.76f
c62 46 0 62.224f
c63 44 0 68f
c64 43 0 274.651f
c65 41 0 28.16f
c66 40 0 36.608f
c67 39 0 18.064f
c68 37 0 116.688f
c69 33 0 360.994f
c70 30 0 28.16f
c71 29 0 85.008f
c72 28 0 833.888f
c73 26 0 186.44f
c74 25 0 186.44f
c75 24 0 112f
c76 17 0 70.06f
c77 13 0 1.80382p
c78 9 0 952.934f
c79 6 0 77.518f
c80 4 0 628.958f
r81 98 150 0.0559551
r82 88 146 0.0478764
r83 84 85 1.024
r84 82 83 0.966
r85 80 81 1.11
r86 76 78 0.0925
r87 71 73 0.055
r88 66 103 0.0559551
r89 66 67 0.32
r90 65 103 0.0559551
r91 64 78 0.0046983
r92 64 65 0.6775
r93 63 76 0.0046983
r94 63 75 1.7025
r95 57 75 0.0506881
r96 57 59 0.209231
r97 56 71 0.0046983
r98 55 67 0.0446983
r99 55 56 0.775
r100 53 70 1.5575
r101 48 70 0.0465316
r102 48 50 0.313846
r103 46 53 0.0446983
r104 46 47 0.1025
r105 45 69 0.0338756
r106 44 73 0.0046983
r107 44 45 0.2
r108 43 47 0.0446983
r109 42 69 0.00880368
r110 42 43 0.7925
r111 40 69 0.0338756
r112 40 41 0.105
r113 39 41 0.0446983
r114 39 150 0.0525
r115 37 68 0.3325
r116 31 68 0.0517569
r117 31 33 0.209231
r118 29 37 0.0446983
r119 29 30 0.1625
r120 28 146 0.0233122
r121 27 30 0.0446983
r122 27 28 2.37
r123 26 107 11.07
r124 26 84 0.0477743
r125 26 107 0.68
r126 25 98 11.07
r127 25 85 0.0477743
r128 25 82 0.0477743
r129 25 103 0.68
r130 25 80 0.0477743
r131 25 98 0.68
r132 25 59 2.60167
r133 25 50 2.58833
r134 24 93 11.07
r135 24 83 0.0477743
r136 24 93 0.68
r137 23 110 0.067
r138 23 81 0.0477743
r139 23 88 0.68
r140 23 33 2.60167
r141 22 25 0.6954
r142 20 25 0.5695
r143 19 110 0.5695
r144 15 17 13.8462
r145 11 26 8.27089
r146 11 13 518.846
r147 7 17 0.587288
r148 7 9 229.231
r149 6 25 8.27089
r150 5 24 8.27089
r151 5 6 26.5385
r152 4 24 8.27089
r153 3 15 0.587288
r154 3 4 214.231
.ends

.subckt PM_MIRROR_GROUND 1 2 3 4 5 6 24 35 36 43 57 66 68 72
c15 81 0 88.41f
c16 77 0 88.41f
c17 72 0 89.53f
c18 69 0 48.64f
c19 68 0 213.46f
c20 67 0 61.44f
c21 66 0 229.18f
c22 65 0 32.18f
c23 64 0 71.808f
c24 63 0 32.18f
c25 62 0 32.18f
c26 61 0 722.24f
c27 60 0 71.808f
c28 57 0 402.688f
c29 54 0 315.828f
c30 51 0 32.18f
c31 50 0 402.688f
c32 49 0 32.18f
c33 46 0 360.994f
c34 43 0 402.688f
c35 39 0 360.994f
c36 36 0 27.84f
c37 35 0 116.999f
c38 34 0 414.128f
c39 30 0 360.994f
c40 21 0 2.59123p
c41 16 0 360.994f
c42 14 0 32.18f
c43 6 0 61.44f
r44 68 69 0.634
r45 66 67 0.67
r46 58 64 0.205
r47 57 81 0.0559551
r48 57 65 1.145
r49 52 65 0.0490438
r50 52 54 0.209231
r51 51 64 0.0497974
r52 51 54 0.313846
r53 50 77 0.0559551
r54 49 50 1.145
r55 44 49 0.0458784
r56 44 46 0.209231
r57 43 72 0.0236071
r58 43 63 1.145
r59 37 63 0.0478379
r60 37 39 0.209231
r61 35 72 0.0808643
r62 35 36 0.345
r63 34 36 0.0446983
r64 34 62 1.1775
r65 28 62 0.0517569
r66 28 30 0.209231
r67 24 26 0.0096
r68 22 61 0.00419427
r69 22 24 0.1608
r70 21 58 0.102649
r71 21 26 0.185867
r72 19 61 0.0648174
r73 19 60 0.205
r74 14 60 0.0497974
r75 14 16 0.313846
r76 10 88 0.067
r77 10 69 0.0477743
r78 10 66 0.0477743
r79 10 77 0.68
r80 10 46 2.60167
r81 9 67 0.0477743
r82 9 72 0.68
r83 9 39 2.60167
r84 9 30 2.60167
r85 6 68 0.0477743
r86 6 81 0.68
r87 6 54 2.60167
r88 6 26 0.138661
r89 6 16 2.60167
r90 5 6 0.6365
r91 4 88 0.5695
r92 3 9 0.6365
r93 2 9 0.6365
r94 1 6 0.6365
.ends

.subckt PM_MIRROR_COUT 1 3 14 16 20 22 43 46 55 59
c12 76 0 75.61f
c13 59 0 69.6f
c14 55 0 100.17f
c15 50 0 88.41f
c16 47 0 61.44f
c17 46 0 280.98f
c18 45 0 92.048f
c19 43 0 51.36f
c20 39 0 60.72f
c21 35 0 78.32f
c22 32 0 32.18f
c23 29 0 360.994f
c24 27 0 32.18f
c25 24 0 28.16f
c26 23 0 75.328f
c27 22 0 146.28f
c28 20 0 161.568f
c29 18 0 38.368f
c30 16 0 465.168f
c31 14 0 363.088f
c32 12 0 445.808f
c33 8 0 360.994f
c34 5 0 61.44f
c35 4 0 105.917f
r36 55 81 0.0409091
r37 46 47 0.818
r38 41 43 0.0675
r39 37 39 0.0925
r40 33 35 0.1425
r41 27 45 0.0517569
r42 27 29 0.313846
r43 25 45 0.2625
r44 23 25 0.0446983
r45 23 24 0.135
r46 22 43 0.0046983
r47 21 81 0.0240454
r48 21 22 0.425
r49 20 24 0.0446983
r50 19 41 0.0046983
r51 19 20 0.46
r52 18 50 0.0559551
r53 17 39 0.0046983
r54 17 18 0.11
r55 16 37 0.0046983
r56 15 76 0.0559551
r57 15 16 1.3225
r58 14 76 0.0559551
r59 13 35 0.0046983
r60 13 14 1.0325
r61 12 33 0.0046983
r62 12 32 1.2675
r63 6 32 0.0517569
r64 6 8 0.209231
r65 5 65 0.0732
r66 5 46 0.0477743
r67 5 55 0.68
r68 5 29 2.58833
r69 4 76 0.68
r70 4 59 0.68
r71 4 47 0.0477743
r72 4 50 0.68
r73 4 8 2.60167
r74 3 65 0.6222
r75 1 4 0.5695
.ends

.subckt PM_MIRROR_S 4 6 17 18 19 21 23 34 36 38 42 59
c19 84 0 118.643f
c20 66 0 579.238f
c21 59 0 69.6f
c22 52 0 88.41f
c23 47 0 118.838f
c24 42 0 84.64f
c25 39 0 61.44f
c26 38 0 77.772f
c27 37 0 61.44f
c28 36 0 562.532f
c29 34 0 54.24f
c30 31 0 32.18f
c31 30 0 422.048f
c32 26 0 360.994f
c33 24 0 32.18f
c34 23 0 128.759f
c35 21 0 17.003f
c36 19 0 26.64f
c37 18 0 84.064f
c38 17 0 722.129f
c39 13 0 360.994f
c40 10 0 61.44f
c41 9 0 186.44f
c42 8 0 125f
r43 38 39 0.23
r44 36 37 1.638
r45 32 34 0.08
r46 29 52 0.0559551
r47 29 30 1.2
r48 24 30 0.0458784
r49 24 26 0.313846
r50 23 42 0.0559551
r51 22 34 0.0046983
r52 22 23 0.39
r53 21 32 0.0046983
r54 20 21 0.05
r55 18 20 0.0446983
r56 18 19 0.1625
r57 17 19 0.0446983
r58 17 31 2.1125
r59 11 31 0.0478379
r60 11 13 0.209231
r61 10 38 0.0477743
r62 10 52 0.68
r63 10 26 2.58833
r64 9 47 11.07
r65 9 36 0.0477743
r66 9 47 0.68
r67 8 39 0.0477743
r68 8 84 0.68
r69 8 66 8.27089
r70 8 84 11.07
r71 8 59 0.68
r72 7 61 0.067
r73 7 37 0.0477743
r74 7 42 0.68
r75 7 13 2.60167
r76 6 10 0.6222
r77 4 61 0.5695
r78 2 9 8.27089
r79 2 66 197.308
.ends

.subckt PM_MIRROR_8 1 2 20
c3 29 0 88.41f
c4 24 0 88.41f
c5 21 0 61.44f
c6 20 0 101.08f
c7 19 0 32.18f
c8 18 0 240.768f
c9 14 0 360.994f
c10 11 0 240.768f
c11 10 0 32.18f
c12 7 0 360.994f
c13 4 0 61.44f
r14 20 21 0.304
r15 18 29 0.0559551
r16 18 19 0.685
r17 12 19 0.0483978
r18 12 14 0.209231
r19 11 24 0.0559551
r20 10 11 0.685
r21 5 10 0.0458784
r22 5 7 0.209231
r23 4 20 0.0477743
r24 4 29 0.68
r25 4 14 2.60167
r26 3 21 0.0477743
r27 3 24 0.68
r28 3 7 2.60167
r29 2 4 0.6365
r30 1 3 0.6365
.ends

.subckt PM_MIRROR_9 1 2 24
c6 33 0 88.41f
c7 28 0 88.41f
c8 25 0 61.44f
c9 24 0 264.04f
c10 23 0 32.18f
c11 22 0 46.288f
c12 20 0 28.16f
c13 19 0 63.008f
c14 18 0 75.328f
c15 14 0 360.994f
c16 11 0 150.128f
c17 10 0 32.18f
c18 7 0 360.994f
c19 4 0 61.44f
r20 24 25 0.784
r21 22 33 0.0559551
r22 21 22 0.1325
r23 19 21 0.0446983
r24 19 20 0.1
r25 18 20 0.0446983
r26 18 23 0.215
r27 12 23 0.0517569
r28 12 14 0.209231
r29 11 28 0.0559551
r30 10 11 0.4275
r31 5 10 0.0458784
r32 5 7 0.209231
r33 4 24 0.0477743
r34 4 33 0.68
r35 4 14 2.60167
r36 3 25 0.0477743
r37 3 28 0.68
r38 3 7 2.60167
r39 2 4 0.5695
r40 1 3 0.6365
.ends

.subckt PM_MIRROR_10 5 9 14 19 22 25 30 32 45 46 48 49 50 52 53 54 61 62 63 64
+ 66 68
c47 81 0 88.41f
c48 77 0 118.598f
c49 72 0 80f
c50 69 0 48.64f
c51 68 0 224.672f
c52 67 0 61.44f
c53 66 0 440.544f
c54 65 0 32.18f
c55 64 0 390.368f
c56 63 0 41.92f
c57 62 0 121.454f
c58 61 0 519.215f
c59 57 0 360.994f
c60 54 0 26.48f
c61 53 0 63.328f
c62 52 0 129.031f
c63 50 0 26.24f
c64 49 0 54f
c65 48 0 596.632f
c66 46 0 27.94f
c67 45 0 77.808f
c68 42 0 360.994f
c69 40 0 32.18f
c70 35 0 61.44f
c71 34 0 112f
c72 33 0 125f
c73 28 0 59.32f
c74 25 0 670.434f
c75 22 0 787.158f
c76 19 0 1.37555p
c77 16 0 29.38f
c78 15 0 110.288f
c79 14 0 522.738f
c80 12 0 29.38f
c81 11 0 193.908f
c82 9 0 1.223p
c83 5 0 1.37555p
r84 68 69 0.654
r85 66 67 1.292
r86 63 64 1.11
r87 62 63 0.08
r88 61 65 1.48
r89 55 65 0.0506881
r90 55 57 0.209231
r91 53 61 0.0446983
r92 53 54 0.1025
r93 52 81 0.0559551
r94 51 54 0.0446983
r95 51 52 0.3775
r96 49 72 0.0559551
r97 49 50 0.155
r98 47 50 0.0446983
r99 47 48 1.82
r100 45 48 0.0446983
r101 45 46 0.1475
r102 40 64 0.0517569
r103 40 42 0.313846
r104 36 46 0.0446983
r105 36 62 0.35
r106 35 68 0.0477743
r107 35 81 0.68
r108 35 57 2.60167
r109 34 95 8.27089
r110 34 77 11.07
r111 34 69 0.0477743
r112 34 66 0.0477743
r113 34 77 0.68
r114 33 72 11.07
r115 33 67 0.0477743
r116 33 72 0.68
r117 33 42 2.58833
r118 32 33 0.6954
r119 30 35 0.6365
r120 27 28 14.6154
r121 23 25 133.077
r122 22 28 0.587288
r123 22 95 268.077
r124 17 34 8.27089
r125 17 19 373.077
r126 15 23 5.58729
r127 15 16 27.6923
r128 14 16 5.58729
r129 13 27 0.587288
r130 13 14 178.077
r131 11 27 5
r132 11 12 66.1538
r133 7 12 5.58729
r134 7 9 321.154
r135 3 33 8.27089
r136 3 5 373.077
.ends

.subckt PM_MIRROR_12 3 4 20 22
c6 31 0 88.41f
c7 26 0 88.41f
c8 23 0 61.44f
c9 22 0 217.12f
c10 21 0 323.488f
c11 20 0 321.408f
c12 16 0 360.994f
c13 14 0 32.18f
c14 11 0 360.994f
c15 9 0 32.18f
c16 6 0 61.44f
r17 22 23 0.64
r18 19 31 0.0559551
r19 19 20 0.92
r20 14 20 0.0458784
r21 14 16 0.313846
r22 9 21 0.0517569
r23 9 11 0.313846
r24 7 26 0.0559551
r25 7 21 0.92
r26 6 22 0.0477743
r27 6 31 0.68
r28 6 16 2.58833
r29 5 34 0.0732
r30 5 23 0.0477743
r31 5 26 0.68
r32 5 11 2.58833
r33 4 6 0.6954
r34 3 34 0.6222
.ends

.subckt PM_MIRROR_16 4 5 6 31 32 33 37
c7 49 0 88.41f
c8 46 0 88.41f
c9 41 0 88.41f
c10 37 0 104.4f
c11 36 0 49.9432f
c12 35 0 48.64f
c13 34 0 61.44f
c14 33 0 258.48f
c15 32 0 434.368f
c16 31 0 323.488f
c17 26 0 360.994f
c18 24 0 32.18f
c19 23 0 434.368f
c20 19 0 360.994f
c21 17 0 32.18f
c22 12 0 360.994f
c23 10 0 32.18f
c24 9 0 61.44f
r25 37 38 0.308
r26 35 36 0.154
r27 33 36 0.0446983
r28 33 34 0.678
r29 29 49 0.0559551
r30 29 32 1.235
r31 24 32 0.0497974
r32 24 26 0.313846
r33 22 46 0.0559551
r34 22 23 1.235
r35 17 23 0.0458784
r36 17 19 0.313846
r37 15 41 0.0559551
r38 15 31 0.92
r39 10 31 0.0517569
r40 10 12 0.313846
r41 9 37 0.0477743
r42 9 49 0.68
r43 9 26 2.58833
r44 8 35 0.0223492
r45 8 38 0.0223492
r46 8 46 0.68
r47 8 19 2.58833
r48 7 34 0.0477743
r49 7 41 0.68
r50 7 12 2.58833
r51 6 9 0.6222
r52 5 8 0.6954
r53 4 7 0.6222
.ends

.subckt PM_MIRROR_CIN 12 18 22 28 32 35 36 39 42 45 48 50 54 70 72 74 76 102
c51 142 0 119.3f
c52 102 0 69.6f
c53 98 0 119.098f
c54 93 0 118.448f
c55 89 0 119.033f
c56 85 0 118.396f
c57 80 0 120.576f
c58 77 0 61.44f
c59 76 0 335.004f
c60 75 0 48.64f
c61 74 0 207.19f
c62 73 0 48.64f
c63 72 0 80.864f
c64 71 0 61.44f
c65 70 0 401.964f
c66 69 0 186.44f
c67 68 0 61.44f
c68 67 0 125f
c69 66 0 125f
c70 64 0 112f
c71 62 0 50.85f
c72 58 0 74.58f
c73 54 0 81.36f
c74 51 0 39.55f
c75 50 0 591.668f
c76 48 0 807.164f
c77 45 0 143.058f
c78 42 0 1.49194p
c79 39 0 242.498f
c80 37 0 125f
c81 36 0 191.648f
c82 35 0 622.178f
c83 32 0 1.0648p
c84 28 0 2.18237p
c85 26 0 114.26f
c86 25 0 138.538f
c87 22 0 1.19249p
c88 18 0 730.324f
c89 15 0 29.38f
c90 14 0 77.518f
c91 13 0 29.38f
c92 12 0 91.078f
c93 9 0 473.018f
c94 7 0 338.548f
r95 76 77 0.974
r96 74 75 0.612
r97 72 73 0.24
r98 70 71 1.178
r99 69 98 11.07
r100 69 76 0.0477743
r101 69 98 0.68
r102 68 93 11.07
r103 68 74 0.0477743
r104 68 93 0.68
r105 67 89 11.07
r106 67 75 0.0477743
r107 67 72 0.0477743
r108 67 89 0.68
r109 66 77 0.0477743
r110 66 142 0.68
r111 66 142 11.07
r112 66 102 0.68
r113 65 85 11.07
r114 65 73 0.0477743
r115 65 70 0.0477743
r116 65 85 0.68
r117 64 80 11.07
r118 64 71 0.0477743
r119 64 80 0.68
r120 60 62 7.30769
r121 56 58 15.3846
r122 52 54 17.6923
r123 50 51 10
r124 46 58 0.587288
r125 46 48 179.615
r126 44 62 0.587288
r127 44 45 48.8462
r128 40 69 8.27089
r129 40 42 412.692
r130 39 60 0.587288
r131 38 56 0.587288
r132 38 39 82.6923
r133 37 68 8.27089
r134 36 45 5.58729
r135 36 37 55.3846
r136 35 66 8.27089
r137 34 67 8.27089
r138 34 35 211.923
r139 30 54 0.587288
r140 30 32 267.308
r141 26 65 8.27858
r142 26 28 647.692
r143 25 65 8.27858
r144 24 52 0.587288
r145 24 25 47.3077
r146 20 22 310.769
r147 16 18 153.462
r148 14 16 5.58729
r149 14 15 16.5385
r150 12 20 5.58729
r151 12 13 21.1538
r152 10 64 8.27089
r153 10 50 201.538
r154 9 64 8.27089
r155 8 15 5.58729
r156 8 9 161.154
r157 7 13 5.58729
r158 7 51 115.385
.ends

.subckt PM_MIRROR_B 11 15 22 24 27 29 32 35 38 41 45 49 53 79 85 90 92 94 96 122
c39 167 0 102.01f
c40 122 0 75.6f
c41 118 0 118.708f
c42 113 0 80f
c43 109 0 120.953f
c44 105 0 119.15f
c45 100 0 118.513f
c46 97 0 61.44f
c47 96 0 138.522f
c48 95 0 48.64f
c49 94 0 283.232f
c50 93 0 48.64f
c51 92 0 258.064f
c52 91 0 61.44f
c53 90 0 109.104f
c54 87 0 70.4f
c55 85 0 375.584f
c56 83 0 45.104f
c57 81 0 28.16f
c58 80 0 70.048f
c59 79 0 296.208f
c60 77 0 186.44f
c61 76 0 318.71f
c62 75 0 125f
c63 74 0 125f
c64 73 0 125f
c65 71 0 84.75f
c66 67 0 56.5f
c67 64 0 18.64f
c68 63 0 16.38f
c69 61 0 57.63f
c70 57 0 72.32f
c71 53 0 1.1439p
c72 49 0 1.1439p
c73 45 0 1.18006p
c74 41 0 1.1439p
c75 38 0 940.838f
c76 35 0 678.344f
c77 32 0 150.968f
c78 29 0 275.268f
c79 27 0 629.754f
c80 24 0 199.558f
c81 22 0 318.208f
c82 20 0 63.958f
c83 18 0 29.38f
c84 17 0 83.168f
c85 15 0 629.754f
c86 11 0 1.96428p
c87 8 0 120.458f
r88 167 169 0.0702041
r89 165 167 0.0163265
r90 96 97 0.416
r91 94 95 0.822
r92 92 93 0.754
r93 90 91 0.32
r94 84 113 0.0559551
r95 84 85 1.08
r96 83 87 0.0517569
r97 82 169 0.0211853
r98 82 83 0.13
r99 80 85 0.0446983
r100 80 81 0.12
r101 79 165 0.0211853
r102 78 81 0.0446983
r103 78 79 0.8425
r104 77 118 11.07
r105 77 96 0.0477743
r106 77 118 0.68
r107 76 94 0.0546708
r108 76 167 0.68
r109 76 113 11.07
r110 76 122 0.538333
r111 76 97 0.0477743
r112 76 113 0.68
r113 76 87 11.07
r114 75 109 11.07
r115 75 95 0.0477743
r116 75 92 0.0477743
r117 75 109 0.68
r118 74 105 11.07
r119 74 93 0.0477743
r120 74 90 0.0477743
r121 74 105 0.68
r122 73 100 11.07
r123 73 91 0.0477743
r124 73 100 0.68
r125 69 71 18.8462
r126 65 67 9.23077
r127 59 61 9.61539
r128 55 57 14.6154
r129 51 77 8.27089
r130 51 53 294.231
r131 47 76 8.27089
r132 47 49 294.231
r133 43 76 8.27089
r134 43 45 306.538
r135 39 71 0.587288
r136 39 41 294.231
r137 38 75 8.27089
r138 37 69 0.587288
r139 37 38 320.385
r140 33 67 0.587288
r141 33 35 135.769
r142 32 65 0.587288
r143 31 32 51.5385
r144 30 63 1.10046
r145 29 31 5.58729
r146 29 30 83.8462
r147 25 64 4.23445
r148 25 27 119.231
r149 24 64 4.23445
r150 23 63 4.23445
r151 23 24 68.0769
r152 22 63 4.23445
r153 21 61 0.587288
r154 21 22 108.462
r155 20 59 0.587288
r156 19 74 8.27089
r157 19 20 21.9231
r158 17 64 1.10046
r159 17 18 28.4615
r160 13 18 5.58729
r161 13 15 119.231
r162 9 57 0.587288
r163 9 11 573.462
r164 8 73 8.27089
r165 7 55 0.587288
r166 7 8 41.1538
.ends

.subckt PM_MIRROR_A 7 10 14 22 30 34 37 41 44 46 49 54 58 63 79 92 94 96 144 147
c38 147 0 64.224f
c39 144 0 69.6f
c40 140 0 118.968f
c41 136 0 118.526f
c42 131 0 119.235f
c43 126 0 118.676f
c44 121 0 118.448f
c45 116 0 119.033f
c46 112 0 122.723f
c47 107 0 118.513f
c48 102 0 118.478f
c49 99 0 61.44f
c50 98 0 143.324f
c51 97 0 61.44f
c52 96 0 337.737f
c53 95 0 48.64f
c54 94 0 358.704f
c55 93 0 61.44f
c56 92 0 110.704f
c57 91 0 61.44f
c58 90 0 59.792f
c59 89 0 217.465f
c60 88 0 186.44f
c61 87 0 112f
c62 86 0 188.13f
c63 85 0 61.44f
c64 84 0 125f
c65 83 0 125f
c66 82 0 125f
c67 79 0 51.98f
c68 76 0 16.38f
c69 74 0 49.72f
c70 71 0 16.38f
c71 69 0 73.45f
c72 66 0 16.38f
c73 65 0 379.228f
c74 63 0 148.708f
c75 61 0 29.38f
c76 60 0 91.078f
c77 58 0 642.184f
c78 54 0 1.07949p
c79 51 0 155.488f
c80 49 0 158.878f
c81 47 0 29.38f
c82 46 0 289.958f
c83 44 0 767.614f
c84 41 0 1.14537p
c85 39 0 125f
c86 38 0 60.568f
c87 37 0 283.178f
c88 34 0 1.17893p
c89 30 0 590.204f
c90 27 0 40.228f
c91 24 0 114.808f
c92 22 0 590.204f
c93 19 0 58.308f
c94 16 0 44.748f
c95 14 0 2.34735p
c96 10 0 767.614f
c97 7 0 270.748f
c98 6 0 114.26f
r99 144 147 0.68
r100 98 99 0.414
r101 96 97 1.012
r102 94 95 1.064
r103 92 93 0.328
r104 90 147 0.0477743
r105 90 91 0.174
r106 89 136 11.07
r107 89 136 0.68
r108 88 140 11.07
r109 88 98 0.0477743
r110 88 140 0.68
r111 87 126 11.07
r112 87 99 0.0477743
r113 87 126 0.68
r114 86 131 11.07
r115 86 96 0.0477743
r116 86 131 0.68
r117 85 121 11.07
r118 85 94 0.0477743
r119 85 121 0.68
r120 84 116 11.07
r121 84 97 0.0477743
r122 84 116 0.68
r123 83 112 11.07
r124 83 95 0.0477743
r125 83 92 0.0477743
r126 83 112 0.68
r127 82 107 11.07
r128 82 93 0.0477743
r129 82 107 0.68
r130 81 102 11.07
r131 81 91 0.0477743
r132 81 102 0.68
r133 77 79 7.69231
r134 72 74 6.92308
r135 67 69 15
r136 65 88 8.27089
r137 64 89 8.27089
r138 64 65 129.231
r139 63 89 8.27089
r140 62 63 50.7692
r141 60 62 5.58729
r142 60 61 21.1538
r143 56 61 5.58729
r144 56 58 123.462
r145 52 79 0.587288
r146 52 54 272.308
r147 51 86 4.10174
r148 50 87 8.27089
r149 50 51 53.0769
r150 49 87 8.27089
r151 48 77 0.587288
r152 48 49 54.2308
r153 46 86 10.6707
r154 46 47 98.8462
r155 42 76 4.23445
r156 42 44 166.154
r157 41 76 4.23445
r158 40 47 5.58729
r159 40 41 390
r160 39 85 8.27089
r161 38 76 1.10046
r162 38 39 20.7692
r163 37 84 8.27089
r164 36 74 0.587288
r165 36 37 96.5385
r166 32 72 0.587288
r167 32 34 306.154
r168 28 30 105.769
r169 27 69 0.587288
r170 26 83 8.27089
r171 26 27 13.8462
r172 25 71 1.10046
r173 24 28 5.58729
r174 24 25 29.2308
r175 20 71 4.23445
r176 20 22 105.769
r177 19 71 4.23445
r178 18 67 0.587288
r179 18 19 20
r180 17 66 1.10046
r181 16 82 8.27089
r182 16 17 15.3846
r183 12 81 8.27858
r184 12 14 703.846
r185 8 66 4.23445
r186 8 10 166.154
r187 7 66 4.23445
r188 6 81 8.27858
r189 6 7 92.3077
.ends

